US04053608
Synthesis of N-propionyl 2-methyl-5-nitronicotinamide (No. 110)
To 0.5 g of 2-methyl-5-nitronicotinamide were added 3 ml of propionic anhydride and five drops of conc. sulfuric acid, and the mixture was stirred at room temperature for 16 hours. After completion of the reaction, water was added to the reaction mixture, and the resulting mixture was stirred at room temperature for one hour, made alkaline with 5% aqueous sodium hydrogen carbonate solution and extracted with ethyl acetate. The extract was then purified on a silica gel column to give 0.36 g of the desired compound as white crystals. mp 171° - 173° C.

reactant | 2-methyl-5-nitronicotinamide | 0.5 g | CC1=C(C(=O)N)C=C(C=N1)[N+](=O)[O-] | C7H7N3O3
reactant | propionic anhydride | 3 ml | C(CC)(=O)OC(CC)=O | C6H10O3
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
catalyst | sulfuric acid | five drops | S(O)(O)(=O)=O | H2O4S
solvent | water | O | H2O
product | N-propionyl 2-methyl-5-nitronicotinamide | 0.36 g | C(CC)(=O)NC(C1=C(N=CC(=C1)[N+](=O)[O-])C)=O | C10H11N3O4
